### PR TITLE
feat : FactorisationProperties (new file)

### PR DESCRIPTION
**Pull request by Colin166**
This file formalizes the definition of abundant, deficient, weird and semi-perfect numbers. It also proves a few theorems about them and their relationships to each other and to prime and perfect numbers.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by loefflerd — COMMENTED** [review]
Here are some comments – more to come later.

File: NatNumberCategories [hunk 1]
```diff
@@ -0,0 +1,416 @@
...
+    by_cases hn : a ≠ n
+    left
+    repeat constructor
+    · assumption
+    · refine (LE.le.gt_iff_ne ?_).mpr (id (Ne.symm hn))
+      exact lt_succ.mp h2
+    · exact h3
+    repeat tauto
+    aesop
+    linarith
```
Comment (loefflerd) [inline NatNumberCategories:204]: This proof is a mess. You have a non-terminal `simp`, you have an `aesop` call which fails (and it prints a message to stdout to tell you so), a whole load of `repeats` etc – this is the sort of thing which first-time Lean coders produce, throwing every conceivable tactic at the goal until something somehow sticks. 

I'm afraid I'm going to have to be brutal here: this proof shows that you do not yet have the skills needed to contribute effectively to mathlib, and that continuing with reviewing this PR is not a good use of my time. I recommend you work on your Lean coding skills, study code written by other more experienced coders, and hold off from attempting to contribute to mathlib until you are in a position to do this effectively.

FWIW, if I were trying to prove this statement, I'd probably produce something like
````
lemma divisors_eq_proper_union_self (hn : 0 < n) :
    divisors n = properDivisors n ∪ {n} := by
  ext1 a
  rw [mem_divisors, mem_union, mem_properDivisors, mem_singleton]
  constructor
  · intro ⟨hdiv, hlt⟩
    rcases eq_or_lt_of_le (le_of_dvd hn hdiv) with rfl | hlt' <;> tauto
  · rintro (⟨hdiv, _⟩ | rfl)
    · exact ⟨hdiv, hn.ne'⟩
    · exact ⟨dvd_rfl, hn.ne'⟩
````

Comment (kmill) [reply NatNumberCategories:204]: Let's judge the proof, not the contributor. Many contributors to mathlib start without knowing what makes a good contribution to mathlib, and the tough job of a reviewer is help contributors rewrite their PRs to become acceptable. Pointing out non-terminal `simp`s and unnecessary tactics is good. Providing a rewritten proof is good. But I think the other elements are nonconstructive and not something that is necessary to say.

Comment (Colin166) [reply NatNumberCategories:204]: No worries. I am pretty new to this Mathlib stuff so I appreciate the criticism as it helps me learn. I am currently working on the file on my computer and fixing it up. When it's done I'll reopen the pull request. Thank you to @loefflerd for the suggestions and @kmill for the encouragement.

Comment (Colin166) [reply NatNumberCategories:204]: Also I've been busy with university and research so progress has been a bit slow. But, I plan to get back into it soon.

**Comment by Colin166** [comment]
Still working on the project. Just wanted to reopen the pull request as I have made a few improvements per David's comments.

**Comment by Colin166** [comment]
I would like some help reviewing my most recent file. A few notes about the file are given.

I used "aesop" and "omega" several times throughout the file and was wondering if that is Mathlib literate. I also need help with replacing "import Mathlib" with the correct specific imports, but do not know a way to do that easily (a.k.a. not guessing and checking).

**Comment by Colin166** [comment]
Another issue is in "theorem seventy_weird" where I use fin_cases as a tactic. I need help with implementing that in the correct way.

**Comment by loefflerd** [comment]
Here are a few suggestions.

- You should give your file a name ending in ".lean", and put it somewhere inside the Mathlib folder hierarchy, something like `Mathlib/NumberTheory/FactorizationProperties.lean`.
- You can get Lean to calculate a minimal set of imports for you, by putting the command `#minimize_imports` at the end of the file.
- There is a shell command described in the [instructors for contributors](https://github.com/leanprover-community/mathlib4?tab=readme-ov-file#contributing) which automatically updates the master `Mathlib.lean` file to add your new file to it. (You need to have done the first two steps already for this to work.)

**Comment by Colin166** [comment]
> Here are a few suggestions.
> 
> * You should give your file a name ending in ".lean", and put it somewhere inside the Mathlib folder hierarchy, something like `Mathlib/NumberTheory/FactorizationProperties.lean`.
> * You can get Lean to calculate a minimal set of imports for you, by putting the command `#minimize_imports` at the end of the file.
> * There is a shell command described in the [instructors for contributors](https://github.com/leanprover-community/mathlib4?tab=readme-ov-file#contributing) which automatically updates the master `Mathlib.lean` file to add your new file to it. (You need to have done the first two steps already for this to work.)

Thank you! Will implement.

**Comment by Colin166** [comment]
TODO:
- I need to fix where theorem "divisors_eq_proper_union_self" and "divisor_subseteq_mul" should go in Mathlib.
- Comment above important theorems
- Anything else pointed out by reviewers

**Comment by loefflerd** [comment]
I'm afraid the file isn't in quite the right place: you have put it in a new folder `NumberTheory/` at the top level of the git repo, whereas it should be inside the subfolder `Mathlib/`. Look to make sure you are putting it in the same place as all the other pre-existing number theory files.

**Comment by Colin166** [comment]
My bad, I fixed it.

**Comment by loefflerd** [comment]
That's the right place now, but don't forget the file name needs to have `.lean` at the end, and you need to run the update script for the top-level index file (and commit the results).

**Comment by Colin166** [comment]
Okay I added the .lean to the end, but I'm not sure how to do the second thing?

**Comment by Colin166** [comment]
Also now that I have minimized my imports, github has had trouble with several checks most notably 
continuous integration / Check all files imported (push) check. Is there a way around this?

**Comment by loefflerd** [comment]
> Okay I added the .lean to the end, but I'm not sure how to do the second thing? [..] Also now that I have minimized my imports, github has had trouble with several checks most notably continuous integration / Check all files imported (push) check. Is there a way around this?

Github is telling you that you haven't done the second thing :-) I've pushed a commit to your branch with the necessary fix. (adding a line to the index file `Mathlib.lean` telling it to include your new file as part of Mathlib)

**Comment by loefflerd** [comment]
> Github is telling you that you haven't done the second thing :-) I've pushed a commit to your branch with the necessary fix. (adding a line to the index file Mathlib.lean telling it to include your new file as part of Mathlib)

Hold it, I did that wrong, sorry. Lemme just fix it a sec.

**Comment by loefflerd** [comment]
The new file is now correctly hooked into the mathlib library; but the "lint style" checker is picking up a whole load of formatting errors, etc, which it wants you to fix, and it seems that you are also importing more files than you need to – the output of the github continuous-integration scripts will tell you what needs fixing. Over to you 🛠️

**Comment by Colin166** [comment]
Sorry was busy. Will fix the lint stuff soon.

**Comment by Colin166** [comment]
Okay lint style stuff should be fixed. However, I do have a few questions / notes before I want to admit the file.

Are aesop and omega alright to use in those cases in the file?
How do I direct Lean to put the properdivisor and divisor theorems in a different file again?

**Comment by grunweg** [comment]
> Okay lint style stuff should be fixed. However, I do have a few questions / notes before I want to admit the file.
> 
> Are aesop and omega alright to use in those cases in the file? How do I direct Lean to put the properdivisor and divisor theorems in a different file again?

Your first question ("can I use powerful tactics or should I stick to more low-level ones") can be discussed in quite some nuance. I personally like the rule of thumb that powerful tactics are fine to use, if they actually make my life easier. If they're slow (e.g., measured subjectively), it's a good idea to look for replacements. Otherwise, you're probably fine using them.

Is your second question how to move `prop_divisors_subseteq_mul` and `divisors_eq_proper_union_self` to a different, existing file? Well, I'd say
- find an appropriate place for the lemmas. Writing `#find_home prop_divisors_subseteq_mul` (after that lemma) can be useful to suggest a good place. And your reviewer can suggest improvements to what #find_home finds.
- move each lemma to the file you want to move it to
If the new file has different `variable`s in scope, you may need to add some to your lemma - or perhaps you can remove one since the variable is already in scope.
- Make sure `FactorisationProperties.lean` still compiles: perhaps you need to `import` the file you moved your lemma to.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 2]
```diff
@@ -0,0 +1,320 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Colin Jones
+-/
+import Mathlib.NumberTheory.Divisors
+import Mathlib.Tactic.NormNum.Prime
+import Mathlib.Algebra.GeomSum
+import Mathlib.Tactic.FinCases
+
+/-!
+## FactorisationProperties.lean
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:12]:
```suggestion
## Factorisation properties of natural numbers

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 3]
```diff
@@ -0,0 +1,320 @@
...
+This file defines abundant, semi-perfect, deficient, and weird numbers and formalizes their
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:13]: Follow-up question: does mathlib have perfect numbers already?
If not, the relation between Mersenne primes and even perfect numbers could be nice material to follow. Since this PR is long enough, a follow-up would be best, probably.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 4]
```diff
@@ -0,0 +1,320 @@
...
+  relations with prime and perfect numbers.
+
+## Main Definitions
+Let `n : ℕ`. All the following definitions are in the Nat namespace.
+* `Abundant` a natural number `n` is abundant if the sum of its proper divisors are greater than
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:18]: This is a comment about conventions: I think mathlib conventions are slightly different. I would rather
- drop the line "Let `n : ℕ`. All the following definitions are in the Nat namespace." and
- qualify the lemma/definitions with `Nat`; see one suggestion below

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 5]
```diff
@@ -0,0 +1,320 @@
...
+  itself and it is greater than zero
+* `Pseudoperfect` a natural number `n` is semi-perfect if a subset of its proper divisors equals
+  itself and it is greater than zero
+* `Deficient` a natural number `n` is deficient if the sum of its proper divisors is less than
+  itself and it is greater than zero
+* `WeirdNumber` a natural number is weird if it is both abundant and not semi-perfect
+
+## Main Results
+* `divisors_eq_proper_union_self` the `Finset` that is `Nat.divisors` is equal to the union of
+  `Nat.properDivisors` and the number itself
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:28]:
```suggestion
* `Nat.divisors_eq_proper_union_self`: `Nat.divisors n` is the union of `Nat.properDivisors` and `{n}`

Comment (grunweg) [reply Mathlib/NumberTheory/FactorisationProperties.lean:28]: One example: notable, I'd name the lemma in its namespace, and put a colon after its name.
In this case, I think the description could be more concise without losing information.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 6]
```diff
@@ -0,0 +1,320 @@
...
+* Zero is not included in any of the definitions and these definitions only apply to natural
+  numbers greater than zero.
+
+## References
+* Prielipp, Robert W. “PERFECT NUMBERS, ABUNDANT NUMBERS, AND DEFICIENT NUMBERS.”
+  The Mathematics Teacher, vol. 63, no. 8, 1970, pp. 692–96. JSTOR,
+  http://www.jstor.org/stable/27958492. Accessed 21 Feb. 2024.
+
+## Tags
+abundant deficient weird Pseudoperfect
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:44]:
```suggestion

abundant, deficient, weird, pseudoperfect

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 7]
```diff
@@ -0,0 +1,320 @@
...
+-/
+
+open Nat BigOperators Finset
+
+set_option maxRecDepth 1000000
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:49]: In general, this line makes me suspicious: is something odd going on? Was this line needed at some point and is not any more?

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 8]
```diff
@@ -0,0 +1,320 @@
...
+
+namespace Nat
+
+variable (n m k : ℕ)
+
+/-- `n : ℕ` is Abundant if and only if the sum of the proper divisors of `n` is greater than `n`
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:55]: I was wondering where positivity of `n` entered. What do you think about this change?
```suggestion
/-- `n : ℕ` is Abundant if and only if the sum of the proper divisors of `n` is greater than `n`.
Since `properDivisors 0 = ∅` by convention, this implies `n` is positive. -/

Comment (grunweg) [reply Mathlib/NumberTheory/FactorisationProperties.lean:55]: (And possibly making the same change to Abundant and Deficient.)

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 9]
```diff
@@ -0,0 +1,320 @@
...
+/--  `n : ℕ` is Deficient if and only if the sum of the proper divisors of `n` is less than `n`
+  and `n` is positive -/
+def Deficient (n : ℕ) : Prop := ∑ i in properDivisors n, i < n
+
+/-- `n : ℕ` is Pseudoperfect if and only if there exists a subset of the proper divisors of n such
+  that the sum of that subset is equal to `n` and `n` is positive -/
+def Pseudoperfect (n : ℕ) : Prop :=
+  0 < n ∧ ∃ s : Finset ℕ, s ∈ powerset (properDivisors n) ∧ ∑ i in s, i = n
+
+/-- `n : ℕ` is a weird number if and only if it is both abundant and semi-perfect -/
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:68]: This is a complete sentence: please end it with a full stop.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 10]
```diff
@@ -0,0 +1,320 @@
...
+      → ∑ i in s, i ≠ n := by
+    have hn : (¬ 0 < n) ↔ n = 0 := by simp only [not_lt, nonpos_iff_eq_zero]
+    dsimp [Pseudoperfect]
+    rw [not_and_or, not_exists, hn]
+    constructor
+    · rintro (h1 | h2)
+      · tauto
+      · right
+        intro s
+        have hs : ¬(s ∈ powerset (properDivisors n) ∧ ∑ i in s, i = n) := by exact h2 s
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:82]: In general, `by exact` can often be removed. Can you remove this, if it compiles?
(This also applies to many other places, I have marked a few (but not all) below.)

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 11]
```diff
@@ -0,0 +1,320 @@
...
+        rw [not_and] at hs
+        exact hs
+    · rintro (h1 | h2)
+      · tauto
+      · right
+        simp_rw [not_and]
+        exact h2
+
+theorem one_deficient : Nat.Deficient 1 := by
+  dsimp [Nat.Deficient]
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:92]: This is a so-called "non-terminal dsimp": the `dsimp` doesn't close your goal and it doesn't specify all lemmas to use.
We try to avoid these in mathlib, as adding a simp lemma could break this proof. (Unlikely in this case, but in other cases, that has happened.)

Can you replace this by an appropriate `dsimp only`? (In this case, it seems `dsimp only [Deficient]` would work; in general, you can write `dsimp?` to get a suggestion for the equivalent `dsimp only` statement.)

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 12]
```diff
@@ -0,0 +1,320 @@
...
+  norm_num
+
+theorem two_deficient : Nat.Deficient 2 := by
+  dsimp [Nat.Deficient]
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:96]: Same here, and a few more places below.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 13]
```diff
@@ -0,0 +1,320 @@
...
+  rcases ha with hn1 | hm1
+  · exact ⟨dvd_trans hn1.1 ⟨m, rfl⟩, by positivity⟩
+  · exact ⟨dvd_trans hm1.1 ⟨n, mul_comm ..⟩, by positivity⟩
+
+theorem prop_divisors_subseteq_mul (hn : 0 < n) (hm : 0 < m) :
+    properDivisors n ∪ properDivisors m ⊆ properDivisors (n*m) := by
+      refine subset_iff.mpr ?_
+      rintro a ha
+      have ha' : a ∈ properDivisors n ∨ a ∈ properDivisors m := by
+        simp_all only [gt_iff_lt, le_mul_iff_one_le_right,
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:138]: Can you replace this by a `simp only`? That should be a bit faster in general. (Same below; I count at least four of them in this file.)

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 14]
```diff
@@ -0,0 +1,320 @@
...
+          le_mul_iff_one_le_left, mem_union, mem_properDivisors]
+      rcases ha' with hn1 | hm1
+      · have han : a ∣ n := by
+          simp_all only [mem_properDivisors, and_self]
+        refine mem_properDivisors.mpr ?_
+        constructor
+        exact Dvd.dvd.mul_right han m
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:145]: The `constructor` call is creating two sub-goals. Please indent them appropriately with a focusing dot `·` (inserted as `\.`), e.g. `· exact Dvd.dvd.mul_right han m` and also for the `refine`.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 15]
```diff
@@ -0,0 +1,320 @@
...
+        refine lt_mul_of_lt_of_one_le ?_ hm
+        simp_all only [gt_iff_lt, le_mul_iff_one_le_right, mem_properDivisors, true_and, ne_eq]
+      · have ham : a ∣ m := by
+          simp_all only [gt_iff_lt, le_mul_iff_one_le_right, mem_properDivisors]
+        refine mem_properDivisors.mpr ?_
+        constructor
+        exact Dvd.dvd.mul_left ham n
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:152]: Please use a focusing dot.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 16]
```diff
@@ -0,0 +1,320 @@
...
+  constructor
+  · exact h2
+  · use properDivisors n
+    constructor
+    · exact mem_powerset_self (properDivisors n)
+    · exact h1
+
+theorem prime_not_abundant (h : Prime n) : ¬ Abundant n := by
+  intro h1
+  have h2 : ∑ i in properDivisors n, i = 1 := by exact sum_properDivisors_eq_one_iff_prime.mpr h
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:201]: Can you avoid the `by exact` here?
Does `omega` require all these hypotheses?

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 17]
```diff
@@ -0,0 +1,320 @@
...
+  revert h
+  rw [not_imp_not]
+  exact perfect_pseudoperfect n
+
+theorem prime_not_pseudoperfect (h : Nat.Prime n) : ¬ Nat.Pseudoperfect n := by
+  rw [not_pseudoperfect_iff_forall]
+  have h1 : powerset (properDivisors n) = {∅, {1}} := by
+    rw [Prime.properDivisors h]
+    exact rfl
+  have h2 : n > 1 := by exact Prime.one_lt h
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:221]: Is this `have` actually used? I don't see where it is...

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 18]
```diff
@@ -0,0 +1,320 @@
...
+  rw [h1]
+  right
+  rintro s hs
+  have hs' : s = ∅ ∨ s = {1} := by exact List.mem_pair.mp hs
+  rcases hs' with hs1 | hs2
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:226]: Probably, you can inline `hs'`, by writing `  rcases (List.mem_pair.mp hs) with hs1 | hs2`

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 19]
```diff
@@ -0,0 +1,320 @@
...
+  <;> {simp [*]; linarith}
+
+theorem prime_not_perfect (h : Prime n) : ¬ Perfect n := by
+  have h1 : ¬ Pseudoperfect n := by apply prime_not_pseudoperfect n h
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:230]: Can you remove the `by apply`? If so, can you inline `h1` into the next line, i.e. write `(prime_not_pseudoperfect n h)` instead?

**Review by grunweg — COMMENTED** [review]
I took a look and left a couple of comments about coding style. Lots of minor comments; this is perfectly normal for a first PR.

Some comments apply throughout this PR; please check the remainder of this file if you can make the same change.

**Comment by Colin166** [comment]
Thank you for your comments. I will fix the following issues soon.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 3 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:13]: Yes, I believe that would be an interesting direction to take this in the future.

Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:13]: I'm also planning to add other proofs about these factorization properties later on.

Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:13]: Mathlib does have perfect numbers, and I believe Aaron Anderson formalized them. Mersenne numbers were also formalized but by someone else.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 5 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:28]: Okay I see how to implement these suggestions, will update.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 7 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:49]: Sorry I forgot to bring this up in my original comment. Yes this is necessary for proving that 70 is a weird number because fin_cases checks every iteration of the sum of each subset of the proper divisors of 70 to prove that none of them equal 70. Is there a way to centralize it only to that proof. I believe David had an issue with this initially because it could be dangerous.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 8 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:55]: I apologize. That was an archaic description before I had fixed the definitions of abundant and deficient to remove the 0 < n requirement

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 10 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:82]: Yes I've seen. Sorry, I wasn't aware of a lot of the shortcuts that lean has available, so learning this stuff is pretty cool.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 9 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:68]: I'm not sure what you mean here? I did notice that I had a typo that said semi-perfect instead of pseudoperfect. Is this what you meant?

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 11 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:92]: Okay I did not know this. Thanks for letting me know

Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:92]: I'll fix these all up

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 13 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:138]: Yes I can. Let me fix all of those.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 19 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:230]: Yes I can.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 17 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:221]: It's used in the `linarith` a couple lines down.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 16 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:201]: I condensed the three hypotheses into two. The omega does require the first and the last ones to complete the goal.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 15 above)
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:152]: Sorry escaped my sight.

**Comment by Colin166** [comment]
Okay I fixed what I could as suggested by grunweg. Here are the things that I couldn't change.

- `set_option maxRecDepth 1000000` in line 49 is used for `theorem seventy_weird` in line 111 because `fin_cases` checks every iteration to show an inequality. Is there a way to make it so that command only applies to that theorem?
- '#find_home` when placed in my file gives me the name of the file itself, not a place in Mathlib. I think the best place for the two theorems - `divisor_subseteq_mul` and `prop_divisors_subseteq_mul` - should be placed in `Mathlib.NumberTheory.Divisors.lean` as that is where `Nat.divisors` and ` Nat.properDivisors` are defined. How should I get them put there and not in my file? I don't believe any theorem in my file uses those two theorems, so removing them should keep the integrity of my file safe.
- Please check if my comments are to Mathlib standard. I believe I understood what grunweg was saying, but I will update if there is further fixing to be done.

Thanks

**Comment by loefflerd** [comment]
Here are some more style comments.

- You still have some non-terminal simps / dsimps, despite having marked that comment of grunweg's as "resolved". Please get rid of the remaining ones.
- Please put spaces around arithmetic operations, e.g. `n ^ x` rather than `n^x`.
- I think it's best to avoid `simp [*]` or `simp only [*]` in production code. It means "simp with everything in the current context", but it's more robust, and quicker to compile, if you specify which hypotheses from the context you want to simp with.
- `:=` should be followed by one space, not two (occurs more than a dozen times).
- You often write `refine some_lemma.mpr ?_`, but that is just a complicated way of writing `rw [some_lemma]`.
- Indentation: the standard rule is that a proof of a theorem is indented 2 spaces (with further indentations within that for sub-proofs). Many of your proofs are indented more than this; I'm surprised the linter doesn't complain about this.
- Is it really necessary to have `not_pseudoperfect_not_perfect` when we already have `perfect_pseudoperfect`?
- Whenever a step in your proof generates more than one goal, you should follow it with a sequence of focussing dots to deal with the subproofs one at a time. (You do this usually but not always, e.g. in `prime_deficient`).
- If your goal is `P ∧ Q`, then rather than writing
  ````
  constructor
  · exact proof_of_P
  · exact proof_of_Q
  ````
  you can just write `exact ⟨proof_of_P, proof_of_Q⟩` (if the proofs are short enough that it fits on a line). Again I'm thinking of `prime_deficient` here, but there are other cases where this occurs in your code too. Generally, whenever you're writing `exact foo` and `foo` is fairly short, it's worth looking for a way of inlining `foo` earlier in the proof rather than letting it appear as a separate goal.
- The `aesop` call in `prime_pow_deficient` is quite slow (more than half of the running time of the entire proof). A more direct proof might be
  ````
  simp only [mem_properDivisors, mem_image, mem_range, h1]
  rintro ⟨⟨t, ht, rfl⟩, ha'⟩
  exact ⟨t, lt_of_le_of_ne ht (fun ht' ↦ lt_irrefl _ (ht' ▸ ha')), rfl⟩
  ````
  This also means you don't need to make `h2` any more.
- `linarith` can be given extra inequalities to use as arguments, so you don't need preliminary `have` statements: that is,
  ````
  have hn2 : n^x > n^y :=  (pow_lt_pow_iff_right n_gtOne).mpr hxy2
  linarith
  ````
  can be shortened to 
  ````
   linarith [(pow_lt_pow_iff_right n_gtOne).mpr hxy2]
  ```` 
   or (longer but more readable) 
  ````linarith [show n ^ x > n ^ y from (pow_lt_pow_iff_right n_gtOne).mpr hxy2]````

- Similarly, if you're using `rcases` to split up an "or" statement, you can build it inline rather than making it separately with `have`; that is,
  ````
  have hxy : x < y ∨ x > y :=  Ne.lt_or_lt hc
  rcases hxy with hxy1 | hxy2
  ````
  can simply become
  ````
  rcases Ne.lt_or_lt hc with hxy1 | hxy2
  ````
- The `<;>` tactic combinator is supposed to be used at the end of a line (not the beginning of the next). You can also write `all_goals { blah }` to apply blah to multiple goals.

**Comment by loefflerd** [comment]
(BTW, a comment about review workflow, rather than actual code: usually the "WIP" tag is read as "ignore this, it isn't ready for other people to look at yet". So the tags "awaiting-review" and "WIP" are an odd combination.)

**Comment by Colin166** [comment]
Than you for your comments David. I will fix these soon.

**Comment by Colin166** [comment]
Is simp_rw alright to keep? It's in line 83.

Also, the indentations (e.g. in abundant_not_perfect_or_deficient and other theorems around it) were implemented because lint style told me to. It's because my goal line (the statement I'm trying to prove) is not in the same line as the theorem name.

**Comment by loefflerd** [comment]
> Also, the indentations (e.g. in abundant_not_perfect_or_deficient and other theorems around it) were implemented because lint style told me to

The style linter doesn't pick up _all_ possible errors, and its suggestions for how to correct the errors it finds are extremely unreliable. If you look at the [style guide](https://leanprover-community.github.io/contribute/style.html#tactic-mode) you'll see that the indentation you're using doesn't fit the standard: the first line of the proof of any theorem should always have an indent of exactly 2 spaces (regardless of whether the theorem _statement_ fits on one line).

`simp_rw` is OK to use in library code. It is worth checking if `simp only` or plain `rw` can do what you need since they are both slightly quicker to compile, but if those don't do the job, then `simp_rw` is fine. (If you search the existing library code you'll see it's used literally thousands of times.)

I'm afraid there's still a long way to go before this code is ready for mathlib, though: the proofs are mostly still very laborious and over-long. For instance, the first theorem, `not_pseudoperfect_iff_forall`, can be condensed down to 
```lean
theorem not_pseudoperfect_iff_forall :
    ¬ Pseudoperfect n ↔ n = 0 ∨ ∀ s ∈ powerset (properDivisors n), (∑ i in s, i) ≠ n := by
  dsimp only [Pseudoperfect]
  rw [not_and_or, not_lt, nonpos_iff_eq_zero, not_exists]
  tauto
```

**Comment by Colin166** [comment]
Yes that's not problem. Thanks for the help. I am a novice at this, so I'm learning new stuff about theorem proving in lean every day. This pull request has helped me develop in many ways.

**Comment by Colin166** [comment]
I'll see what I can do to condense the code, and I'll fix the indentations. Originally, they weren't there because I did agree with the style guide: all first lines of a proof should have two spaces. I believe I accidentally mistook one of the lint style critiques as that. So, I'll fix that as well.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 20]
```diff
@@ -0,0 +1,248 @@
...
+
+/- All numbers are either deficient, perfect, or abundant -/
+theorem deficient_or_perfect_or_abundant (hn : 0 < n) :
+    Deficient n ∨ Abundant n ∨ Perfect n := by
+      dsimp only [Perfect, Abundant, Deficient]
+      omega
+
+theorem perfect_pseudoperfect (h : Perfect n) : Pseudoperfect n := by
+  rcases h with ⟨h1, h2⟩
+  constructor
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:144]: Can you golf the constructor call and the two subgoals is into one line, something like this (untested)?
```
exact ⟨h2, properDivisors n, mem_powerset_self (properDivisors n), h1⟩

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 21]
```diff
@@ -0,0 +1,248 @@
...
+  right
+  rintro s hs
+  rcases (List.mem_pair.mp hs) with hs | hs <;>
+  {simp only [ne_eq, hs, sum_empty, sum_singleton];
+    exact Nat.ne_of_lt (by linarith [Prime.one_lt h])}
+
+theorem prime_not_perfect (h : Prime n) : ¬ Perfect n :=
+  not_pseudoperfect_not_perfect n (prime_not_pseudoperfect n h)
+
+theorem prime_deficient (h : Prime n) : Deficient n := by
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:180]: This is a special case of `prime_pow_deficient`. Is there any particular reason you're having both?
If there is, can you at least deduce this from the general version?

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 22]
```diff
@@ -0,0 +1,248 @@
...
+theorem prime_not_pseudoperfect (h : Nat.Prime n) : ¬ Nat.Pseudoperfect n := by
+  rw [not_pseudoperfect_iff_forall]
+  have h1 : powerset (properDivisors n) = {∅, {1}} := by
+    rw [Prime.properDivisors h]
+    exact rfl
+  rw [h1]
+  right
+  rintro s hs
+  rcases (List.mem_pair.mp hs) with hs | hs <;>
+  {simp only [ne_eq, hs, sum_empty, sum_singleton];
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:174]: As a general comment on formatting: in general, tactic blocks using `{` and `}` can often be avoided.
As I understand it, it's preferred to you <;> twice than using a tactic block, i.e. mathlib style prefers something like
```
    rcases (List.mem_pair.mp hs) with hs | hs <;>
    simp only [ne_eq, hs, sum_empty, sum_singleton]<;>
    exact Nat.ne_of_lt (by linarith [Prime.one_lt h])}

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 23]
```diff
@@ -0,0 +1,248 @@
...
+    have hr : 1 < n ^ m :=  one_lt_pow (not_eq_zero_of_lt hR) (Prime.two_le h)
+    rw [Deficient, hp, hw, hq]
+    calc
+      (n ^ m - 1) / (n - 1) ≤ (n ^ m - 1) := Nat.div_le_self (n ^ m - 1) (n - 1)
+      _                   < n ^ m := by {rw [tsub_lt_self_iff]; norm_num; exact lt_of_succ_lt hr}
+
+theorem exists_infinite_even_deficients : ∃ d, n ≤ d ∧ Deficient d ∧ Even d := by
+  use 2 ^ (n + 1)
+  constructor
+  · rw [Nat.le_iff_lt_or_eq]
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:227]: Does mathlib have this estimate already? If not, please extract this into a separate lemma, for any base `a : N`.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 24]
```diff
@@ -0,0 +1,248 @@
...
+    left
+    calc
+      n ≤ 2 * n := by linarith
+      _ < 2 * (2 ^ n) := Nat.mul_lt_mul_of_pos_left (lt_two_pow n) (Nat.zero_lt_two)
+      _ = 2 ^ (n + 1) := by rw [Nat.pow_succ']
+  · exact ⟨prime_pow_deficient 2 (n + 1) prime_two, even_pow.mpr ⟨even_iff.mpr rfl, succ_ne_zero n⟩⟩
+
+theorem exists_infinite_odd_deficients : ∃ d, n ≤ d ∧ Nat.Deficient d ∧ Odd d := by
+  use 3 ^ (n + 1)
+  have nlttwo : n < 2 ^ (n + 1) := by
```
Comment (grunweg) [inline Mathlib/NumberTheory/FactorisationProperties.lean:237]: Then, you can use the above lemma here.

**Review by grunweg — COMMENTED** [review]
I have a few more style comments. This list is not exhaustive; I hope these are helpful still.

File: Mathlib/NumberTheory/FactorisationProperties.lean (hunk 23 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/FactorisationProperties.lean:227]: There's `Nat.lt_two_pow` which is considerably stronger, it shows `n < 2 ^ n`. This is actually used in the proof here, although in a strangely roundabout way.

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 25]
```diff
@@ -0,0 +1,248 @@
...
+
+theorem prime_not_perfect (h : Prime n) : ¬ Perfect n :=
+  not_pseudoperfect_not_perfect n (prime_not_pseudoperfect n h)
+
+theorem prime_deficient (h : Prime n) : Deficient n := by
+  rw [deficient_not_abundant_or_perfect n]
+  · exact ⟨prime_not_abundant n h, prime_not_perfect n h⟩
+  · exact Prime.pos h
+
+/-There exists infinite deficient numbers-/
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/FactorisationProperties.lean:185]: Possibly not – particularly since there's also `exists_infinite_even_deficients` and `exists_infinite_odd_deficients`.

[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/FactorisationProperties.lean:185]: (Incidentally, docstrings need to begin with `/--` (two dashes) rather than just `/-` or they don't get picked up by the reference-manual-builder script; and the start/end delimiters should each be separated from the text with a space.)

**Comment by Colin166** [comment]
Sorry was busy with school and work. I'm back again and will fix these issues soon.

**Comment by Colin166** [comment]
Thanks for your comments by the way. They help me develop as a Lean 4 theorem prover. I did not know you could fold the exists statement into an exact tactic

File: Mathlib/NumberTheory/FactorisationProperties.lean [hunk 26]
```diff
@@ -0,0 +1,248 @@
...
+  equals itself and it is greater than zero
+* `Nat.Deficient`: a natural number `n` is deficient if the sum of its proper divisors is less than
+  itself
+* `Nat.WeirdNumber`: a natural number is weird if it is both abundant and not pseudoperfect
+
+## Main Results
+* `Nat.deficient_or_perfect_or_abundant`: for 0 < `n:ℕ` it is either deficient, perfect, or
+  abundant
+* `Nat.prime_deficient`: all prime natural numbers are deficient
+* `Nat.exists_infinite_deficients`: there are infinite deficient numbers
```
[the remark this answers is not in the document]
Comment (Colin166) [reply Mathlib/NumberTheory/FactorisationProperties.lean:29]: Haha true, I'll fix this.

**Comment by Colin166** [comment]
Do you guys know how to fix the build error I'm getting? This hasn't happened before, and I haven't changed anything drastically with the file.

**Comment by grunweg** [comment]
Can you merge `master`? I believe this particular error is usually fixed by that.

**Comment by Colin166** [comment]
How do I do that?

**Comment by loefflerd** [comment]
Just open a command prompt, go to the top-level directory of your git checkout (the one containing the file "Mathlib.lean"), and type "git fetch" followed by "git merge origin/master".

**Comment by Colin166** [comment]
I'm going to close this pull request and open a new one with my updated file.
